US08492582B2
Under ice-cooling, a 28% sodium methoxide-methanol solution (0.34 g) was added to a methanol (3.1 mL) suspension of 4-(2-(methoxycarbonyl)-5-phenylphenylcarbamoyl)-1,3-phenylene diacetate (0.31 g), followed by stirring at room temperature for 1 hour. The reaction mixture was added to 0.5 mol/L hydrochloric acid (20 mL) under ice-cooling, and then ethyl acetate was added thereto. The organic layer was separated, washed with water and a saturated aqueous solution of sodium chloride sequentially, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue to obtain 0.24 g of methyl 2-(2,4-dihydroxybenzamido)-4-phenylbenzoate as a white solid.

reactant | sodium methoxide methanol | 0.34 g | C[O-].[Na+].CO
reactant | methanol | 3.1 mL | CO | CH4O
reactant | 4-(2-(methoxycarbonyl)-5-phenylphenylcarbamoyl)-1,3-phenylene diacetate | 0.31 g | C(C)(=O)OC1=CC(=C(C=C1)C(NC1=C(C=CC(=C1)C1=CC=CC=C1)C(=O)OC)=O)OC(C)=O | C25H21NO7
reactant | hydrochloric acid | 0.5 mol/L, 20 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-(2,4-dihydroxybenzamido)-4-phenylbenzoate | 0.24 g | OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)O | C21H17NO5
